US04514416
In 50 ml of dried pyridine, was dissolved 1.65 g of 4-dimethylaminobenzoic acid followed by the addition of 3.1 g of DCC. After 30 minutes of stirring, 3.36 g of 4-amidino-2-benzoylphenol methanesulfonate was added to the mixture and the mixture was further stirred overnight. The reaction mixture was removed of the insolubles by filtration and recrystallized from ethanol to yield 1.2 g of 4-amidino-2-benzoylphenyl 4-dimethylaminobenzoate methanesulfonate.

reactant | 4-dimethylaminobenzoic acid | 1.65 g | CN(C1=CC=C(C(=O)O)C=C1)C | C9H11NO2
reactant | DCC | 3.1 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 4-amidino-2-benzoylphenol methanesulfonate | 3.36 g | CS(=O)(=O)OC1=C(C=C(C=C1)C(N)=N)C(C1=CC=CC=C1)=O | C15H14N2O4S
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 4-amidino-2-benzoylphenyl 4-dimethylaminobenzoate methanesulfonate | 1.2 g | CS(=O)(=O)O.CN(C1=CC=C(C(=O)OC2=C(C=C(C=C2)C(N)=N)C(C2=CC=CC=C2)=O)C=C1)C | InChI=1S/C23H21N3O3.CH4O3S/c1-26(2)18-11-8-16(9-12-18)23(28)29-20-13-10-17(22(24)25)14-19(20)21(27)15-6-4-3-5-7-15;1-5(2,3)4/h3-14H,1-2H3,(H3,24,25);1H3,(H,2,3,4)
